US05210211
N-Trimethylstannyl-5-(4'-methylbiphenyl-2-yl)tetrazole
A solution of 2-cyano-4'-methylbiphenyl (1.93 g) in toluene (25 mL) was treated with trimethyltin azide (2.65 g) and heated at reflux for 24 hours. The resulting suspension was cooled to 70° C. and filtered. The collected solid was dried at reduced pressure to give the title compound. 1H-NMR (CDCl3) δ 7.5 (m, 4H), 7.0 (q, 4H), 2.3 (s, 3H), 0.4 (s, 9H).

reactant | 2-cyano-4'-methylbiphenyl | 1.93 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
reactant | trimethyltin azide | 2.65 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-Trimethylstannyl-5-(4'-methylbiphenyl-2-yl)tetrazole | C[Sn](N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C)(C)C | InChI=1S/C14H11N4.3CH3.Sn/c1-10-6-8-11(9-7-10)12-4-2-3-5-13(12)14-15-17-18-16-14;;;;/h2-9H,1H3;3*1H3;/q-1;;;;+1
